US05880147
N-[2-t-Butyl-5-(2-carboxyethyl)phenyl]-3-(2,6-dimethoxyphenyl)octanamide
Following a similar procedure to that described in Preparation 77, but using N-[2-t-butyl-5-(2-carboethoxyethyl)phenyl]-3-(2,6-dimethoxyphenyl)octanamide (prepared as described in Preparation 86), the title compound was obtained as colorless crystals, melting at 52°-53° C. (from methylene chloride-hexane).

reactant | N-[2-t-butyl-5-(2-carboethoxyethyl)phenyl]-3-(2,6-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)OCC)NC(CC(CCCCC)C1=C(C=CC=C1OC)OC)=O | C31H45NO5
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
product | N-[2-t-Butyl-5-(2-carboxyethyl)phenyl]-3-(2,6-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)O)NC(CC(CCCCC)C1=C(C=CC=C1OC)OC)=O | C29H41NO5
